US07659279B2
Methanol (6.5 ml) and potassium tert-butoxide (18 g) were added sequentially, each in one portion, to a mixture of N-(3-chloro-4-fluorophenyl)-5,7-difluoroquinazolin-4-amine (13.8 g) in THF (270 ml) at room temperature under a nitrogen atmosphere. The mixture was heated at 75° C. for 18 hours 30 minutes and then cooled to room temperature and concentrated in vacuo to leave a brown solid. The solid was cooled to 0° C. and cold water was added and then the precipitate was filtered and dried to leave N-(3-chloro-4-fluorophenyl)-5,7-dimethoxyquinazolin-4-amine as a light brown solid (10.4 g, 69%); Mass spectrum MH+ 334.

reactant | Methanol | 6.5 ml | CO | CH4O
reactant | potassium tert-butoxide | 18 g | CC(C)([O-])C.[K+]
reactant | N-(3-chloro-4-fluorophenyl)-5,7-difluoroquinazolin-4-amine | 13.8 g | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=CC(=C12)F)F | C14H7ClF3N3
reactant | water | O | H2O
solvent | THF | 270 ml | C1CCOC1 | C4H8O
product | N-(3-chloro-4-fluorophenyl)-5,7-dimethoxyquinazolin-4-amine | 10.4 g, 69% | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=CC(=C12)OC)OC | C16H13ClFN3O2
